US09253997B2
Synthesis of (2S)-2-amino-3-{[(3-sulfophenyl)carbamothioyl]amino}propanoic acid
35 mg (0.2 mmol) of 3-aminobenzenesulfonic acid and 57 mg (0.68 mmol) of sodium hydrogen carbonate were added to a mixed solvent of 2.0 ml of water and 0.5 ml of THF, and stirred at room temperature for 15 minutes. 20 μl (0.26 mmol) of thiophosgene was added and stirred at room temperature for another 40 minutes. Subsequently, 60 mg (0.2 mmol) of tert-butyl (2S)-3-amino-2-{[(tert-butoxy)carbonyl]amino}propanoate hydrochloride was added and stirred overnight. Following extraction with ethyl acetate, the solvent was distilled away, and 4.0 ml of trifluoroacetic acid was added to the residue, and the resultant was stirred at room temperature for 5 hours. After distilling the solvent away, purification step A was used to obtain 3.5 mg of the title compound.

reactant | 3-aminobenzenesulfonic acid | 0.2 mmol, 35 mg | NC=1C=C(C=CC1)S(=O)(=O)O | C6H7NO3S
reactant | sodium hydrogen carbonate | 0.68 mmol, 57 mg | C(O)([O-])=O.[Na+]
reactant | thiophosgene | 0.26 mmol, 20 μl | C(=S)(Cl)Cl | CCl2S
reactant | tert-butyl (2S)-3-amino-2-{[(tert-butoxy)carbonyl]amino}propanoate hydrochloride | 0.2 mmol, 60 mg | Cl.NC[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | water | 2.0 ml | O | H2O
product | (2S)-2-amino-3-{[(3-sulfophenyl)carbamothioyl]amino}propanoic acid | 3.5 mg | N[C@H](C(=O)O)CNC(NC1=CC(=CC=C1)S(=O)(=O)O)=S | C10H13N3O5S2
